data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9289,"CCOCC.O=S(=O)([O-])O.OC1=CC(O)=CC(O)=C1.OC1=CC=C(CC#[N:1])C=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,416,"C[C:1](C1=C(F)C=CC=C1)=[O:2].FC1=C([C:3](=[CH2:4])[O-:5])C=CC=C1|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1508,"CC(C)CC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,7597,"CC(C)CCCC(C)C1CCC2C3CCC4=C[C:1](=[O:2])CCC4(C)C3CCC12C.[Li:3][CH3:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8688,"C[OH:1].O=C[C:2]1([OH2+:3])C2=C(C=CC=C2)C2=C(CCO2)[CH:4]1[H:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,8703,"ClC1=CC=C([CH:1](C(Cl)(Cl)Cl)[OH2+:2])C=C1.ClC1=CC=CC=C1.O=S(=O)([O-])O|((1, 2), 2)"
train,pmechdb_split_0,0,10093,"CCC[CH:1]=[O+:2][Na].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2279,"CC(=O)[O-:1].CCOC(=O)C1=CN(C2CC2)C2=C(C=C(F)C(N3CC[N+:2](C(O)C4=CC5=C(C=C4)C(C)(C)N(OC)C5(C)C)([H:3])CC3)=C2)C1=O.CO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7647,"CCCCB(CCCC)[O+:1]=[C:2](CC(OCC1=CC=C(OC)C=C1)C(C)C)[CH2:3][H:4].CC[N:5](C(C)C)C(C)C.O=S(=O)([O-])C(F)(F)F|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5929,"CCCC(O)C(O)[CH:1]([OH2+:2])[O:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5145,"N#CC1=CC2=C(C=C1)[C:1]([N+](=O)[O-])([H:2])[CH+:3]C=C2.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7968,"C[CH:1]=[N+:2](C)C.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4656,"C[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9460,"CCOCC.C[C:1](C1=CC(C#N)=CC=C1)([OH+:2][B-](F)(F)F)[O:3]CCO.OCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9288,"C1=CC=[NH+]C=C1.CCC(=O)OC1([O-])OC(CC)=[N+:1]([H:2])C1CC1CCCCC1.CCC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1354,"COC(=O)C1CCC(=[O:1])CC1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4746,"CC(C1=CC=CC=C1)[NH2:1].COC1=C(OC)C(OCC2=CC=CC=C2)=CC(C[C:2](Cl)=[O:3])=C1.O.[OH][Na]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7110,"CC1CCC(S(=O)(=O)C2N=[C-:1]OC23CCCC3)CC1.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5065,"CC(C)[O][Ti-]([Cl])([Cl])([Cl])[O:1][CH+:2]C|(1, 2)"
train,pmechdb_split_0,0,2339,"N#[C:1][CH2:2][O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5369,"CC1=CC=C(S(=O)(=O)O)C=C1.CC1=CC=C([NH2:1])C=C1.O=C1C([CH:2]=[O:3])=COC2=C1C=CC=C2|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4585,"COC1=C2OC3C(=N[NH:1][H:2])CCC4(O)C5CC(=C2C34CCN5C)C=C1.O.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9700,"CCNCC=C(C)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2348,"CC(C)[O][Al-]([O]C(C)C)([O]C(C)C)[O+:1](C1CCC2(O)C(=CCC3C4CCC(=O)C4(C)CCC32)C1)[H:2].C[N:3]1CCC(=O)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4962,"CC(C)[O-].CCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CC)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5511,"C1=CC=C(NC2([OH:1])CCCCC2)C=C1.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9854,"C=C[C:1](OC(C)=O)=[O:2].C[C:3](=[CH2:4])[N:5]1CCCC1|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3102,"C1=CC=[NH+]C=C1.CC(=O)OC12CCCCC1C1(O)C(O[S:1](C)(=O)([O-:2])[Cl:3])CCCC21|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9283,"CCC1(C)[CH:1](C)[O:2]1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6082,"N[CH+:1][NH2:2]|(2, 1)"
train,pmechdb_split_0,0,249,"CO[C+:1]1C(Br)=CC=C[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6652,"O=[C+:1]CO[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,1794,"C=C(Br)CC1(CCCC=O)C=CC(=O)C=C1.CCOC(=O)C=O.CC[N:1](CC)CC.FC1=C(F)C(F)=C([N+]2=[C:2]([H:3])N3CCCC3=N2)C(F)=C1F.F[B-](F)(F)F.O=C(C=CC1=CC2=C(C=C1)OCO2)C1=C(F)C=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,786,"COC1=C([NH:1][N:2]=[O:3])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.[Cl-].[H:4][OH2+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8047,"C[CH:1]([NH:2]C)[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9736,"CCC1[CH:1](C)[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6438,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CO.C[C:1](C)=[O+:2]CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5892,"O=S(=O)(O)[C:1]1([H:2])SC=C[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3723,"CC(=O)[O-:1].CCO[S+](C)[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5140,"CC[Si](CC)(CC)OC1([C:1]2=[CH:2]C3CCCC3C2)CCCC1C[CH:3]=[O+:4]C.C[O][Sn-]([Cl])([Cl])([Cl])[Cl]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10070,"CC(C)=C[CH2+:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=C[C:2]([OH:3])=[CH:4]C(O)=C1.O|(3, 2);((2, 4), 1)"
train,pmechdb_split_0,0,2843,"C=CCO[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.CC[CH+:5]OC1=CC=CC=C1|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,3250,"CC(=O)[O-:1].CC1=CC=C(C2=CC(C(=O)C[CH:2]([H:3])[C:4](C)=[NH2+:5])=CC(C3=CC=C(C)N3)=C2)N1.O.O=C[O-]|(1, 3);((3, 2), 4);((4, 5), 5)"
